US04107307
2-n-Propyl-4-imidazolecarboxaldehyde
A solution of 108.6 gm. of 2-n-propyl-4-imidazolemethanol in 107 ml. of concentrated HNO3 is reacted as in Example 15, giving the desired product, m.p. 103.5°-105.5° C.

reactant | 2-n-propyl-4-imidazolemethanol | C(CC)C=1NC=C(N1)CO | C7H12N2O
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
product | 2-n-Propyl-4-imidazolecarboxaldehyde | C(CC)C=1NC=C(N1)C=O | C7H10N2O
